### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated/TStructure): more on `truncLT` and `truncGE`

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 1]
```diff
@@ -164,6 +164,43 @@ instance isGE_triangleFunctor_obj_obj₃ :
   dsimp [triangleFunctor]
   infer_instance
 
+noncomputable def triangleMapOfLE (a b : ℤ) (h : a ≤ b) : triangle t a A ⟶ triangle t b A :=
+  have H := triangle_map_exists t (triangle_distinguished t a A)
+    (triangle_distinguished t b A) (𝟙 _) (a-1) b inferInstance inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]:
```suggestion
    (triangle_distinguished t b A) (𝟙 _) (a - 1) b inferInstance inferInstance
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 2]
```diff
@@ -164,6 +164,43 @@ instance isGE_triangleFunctor_obj_obj₃ :
...
+    hom₂ := 𝟙 _
+    hom₃ := H.choose.hom₃
+    comm₁ := by rw [← H.choose.comm₁, H.choose_spec]
+    comm₂ := by rw [H.choose.comm₂, H.choose_spec]
+    comm₃ := H.choose.comm₃ }
+
+noncomputable def triangleFunctorNatTransOfLE (a b : ℤ) (h : a ≤ b) :
+    triangleFunctor t a ⟶ triangleFunctor t b where
+  app X := triangleMapOfLE t X a b h
+  naturality {X₁ X₂} φ :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]:
```suggestion
  naturality φ :=
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 3]
```diff
@@ -237,6 +290,281 @@ instance (X : C) (n : ℤ) : t.IsGE ((t.triangleLTGE n).obj X).obj₃ n := by
...
+lemma truncGEπ_comp_truncGEδLT_app (n : ℤ) (X : C) :
+    (t.truncGEπ n).app X ≫ (t.truncGEδLT n).app X = 0 :=
+  comp_distTriang_mor_zero₂₃ _ (t.triangleLTGE_distinguished n X)
+
+@[reassoc (attr := simp)]
+lemma truncGEδLT_comp_truncLTι_app (n : ℤ) (X : C) :
+    (t.truncGEδLT n).app X ≫ ((t.truncLTι n).app X)⟦(1 : ℤ)⟧' = 0 :=
+  comp_distTriang_mor_zero₃₁ _ (t.triangleLTGE_distinguished n X)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]: This does not seem necessary any more (in fact there are several of these in this file which don't seem to be necessary)

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 4]
```diff
@@ -237,6 +290,281 @@ instance (X : C) (n : ℤ) : t.IsGE ((t.triangleLTGE n).obj X).obj₃ n := by
...
+@[reassoc (attr := simp)]
+lemma truncLTι_comp_truncGEπ (n : ℤ) :
+    t.truncLTι n ≫ t.truncGEπ n = 0 := by
+  cat_disch
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]: also not necessary (etc etc)

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 5]
```diff
@@ -237,6 +290,281 @@ instance (X : C) (n : ℤ) : t.IsGE ((t.triangleLTGE n).obj X).obj₃ n := by
...
+noncomputable def natTransTruncGEOfLE (a b : ℤ) (h : a ≤ b) :
+    t.truncGE a ⟶ t.truncGE b :=
+  Functor.whiskerRight (TruncAux.triangleFunctorNatTransOfLE t a b h) Triangle.π₃
+
+@[reassoc (attr := simp)]
+lemma natTransTruncLTOfLE_ι_app (a b : ℤ) (h : a ≤ b) (X : C) :
+    (t.natTransTruncLTOfLE a b h).app X ≫ (t.truncLTι b).app X = (t.truncLTι a).app X := by
+  simpa using ((TruncAux.triangleFunctorNatTransOfLE t a b h).app X).comm₁.symm
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]: not needed any more

File: Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean [hunk 6]
```diff
@@ -237,6 +290,281 @@ instance (X : C) (n : ℤ) : t.IsGE ((t.triangleLTGE n).obj X).obj₃ n := by
...
+  cat_disch
+
+/-- The natural transformation `t.triangleLTGE a ⟶ t.triangleLTGE b`
+when `a ≤ b`. -/
+noncomputable def natTransTriangleLTGEOfLE (a b : ℤ) (h : a ≤ b) :
+    t.triangleLTGE a ⟶ t.triangleLTGE b := by
+  refine Triangle.functorHomMk' (t.natTransTruncLTOfLE a b h) (𝟙 _)
+    ((t.natTransTruncGEOfLE a b h)) ?_ ?_ ?_
+  · simp
+  · simp
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Triangulated/TStructure/TruncLTGE.lean]: I would have put the two `by simp`s in the `refine` line but I don't think that this is specifically in the style guide, so this is just a suggestion.

**Review by kbuzzard — APPROVED** [review]
Thanks!

bors d+
